US07638541B2
Step 2: 4-Carbamoyl-4-methyl-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-cyano-4-methyl-piperidine-1-carboxylic acid tert-butyl ester (2.24 g, 10 mmol) in methanol (25 mL) was added DMSO (1 mL), aqueous 1N NaOH (12 mL, 12 mmol) and H2O2 (4 mL) at room temperature. The mixture was heated at 50° C. for 3 hours. After cooling to room temperature, the mixture was partitioned between EtOAc and H2O. The organic layer was washed successively with H2O and brine. After drying (Na2SO4), the solvent was removed to afford the desired product.

reactant | 4-cyano-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | 10 mmol, 2.24 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C#N | C12H20N2O2
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
reactant | NaOH | 12 mmol, 1N, 12 mL | [OH-].[Na+]
reactant | H2O2 | 4 mL | OO | H2O2
solvent | methanol | 25 mL | CO | CH4O
product | 4-Carbamoyl-4-methyl-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)(C)C(N)=O | C12H22N2O3
